US08871782B2
A mixture of N-(2-{[7-(benzyloxy)-3-nitroquinolin-4-yl]amino}-1,1-dimethylethyl)-N′-isopropylurea (4.24 g, 9.39 mmol) and 5% platinum on carbon (1.0 g) in acetonitrile (700 mL) was hydrogenated at 30 psi (2.1×105 Pa) overnight on a Parr apparatus. The mixture was filtered through CELITE filter agent, which was subsequently rinsed with acetonitrile and dichloromethane. The filtrate was concentrated under reduced pressure to yield 3.67 g of N-(2-{[3-amino-7-(benzyloxy)quinolin-4-yl]amino}-1,1-dimethylethyl)-N′-isopropylurea as a pale yellow foam that was used without purification.

reactant | N-(2-{[7-(benzyloxy)-3-nitroquinolin-4-yl]amino}-1,1-dimethylethyl)-N′-isopropylurea | 9.39 mmol, 4.24 g | C(C1=CC=CC=C1)OC1=CC=C2C(=C(C=NC2=C1)[N+](=O)[O-])NCC(C)(C)NC(=O)NC(C)C | C24H29N5O4
catalyst | platinum on carbon | 1.0 g | [Pt] | Pt
solvent | acetonitrile | 700 mL | C(C)#N | C2H3N
product | N-(2-{[3-amino-7-(benzyloxy)quinolin-4-yl]amino}-1,1-dimethylethyl)-N′-isopropylurea | 3.67 g | NC=1C=NC2=CC(=CC=C2C1NCC(C)(C)NC(=O)NC(C)C)OCC1=CC=CC=C1 | C24H31N5O2
